US07067537B2
Production of 4-methyl-3-[4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]phenylformamide
4-Methyl-3-[2-(2-methyl-5-nitrophenyl)-1,3-thiazol-4-yl]pyridine (98 mg) and reduced iron (170 mg) were suspended in a mixture of formic acid (3 ml)-ethyl formate (3 ml). 1N Hydrochloric acid (0.2 ml) was added and the mixture was stirred at 80° C. for 12 hrs. The reaction mixture was diluted with ethyl acetate and the insoluble material was filtered off. The organic layer was neutralized with saturated aqueous sodium hydrogen carbonate. The organic layer was separated and concentrated by drying. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=1:1–0:1) for purification. Recrystallization from ethyl acetate gave the title compound (15 mg) as pale-yellow columnar crystals.

reactant | 4-Methyl-3-[2-(2-methyl-5-nitrophenyl)-1,3-thiazol-4-yl]pyridine | 98 mg | CC1=C(C=NC=C1)C=1N=C(SC1)C1=C(C=CC(=C1)[N+](=O)[O-])C | C16H13N3O2S
reactant | ethyl formate | 3 ml | C(=O)OCC | C3H6O2
reactant | Hydrochloric acid | 1N, 0.2 ml | Cl | ClH
solvent | formic acid | 3 ml | C(=O)O | CH2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methyl-3-[4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]phenylformamide | 15 mg | CC1=C(C=C(C=C1)NC=O)C=1SC=C(N1)C=1C=NC=CC1C | C17H15N3OS
